US07030145B2
4-[6-Methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-benzaldehyde, prepared as described in Example 52, (100 mg, 0.25 mmol) was dissolved in dry THF and cooled to 0° C. To the solution was added a 1 M solution of PhMgBr in THF (0.63 mL, 0.63 mmol) and the reaction was stirred at 25° C. for 2 h, quenched with water and neutralized with 10% HCl and extracted with EtOAc (100 mL). The EtOAc was washed with brine, dried and stripped in vacuo. The residue was purified by silica gel chromatography (20% EtOAc/hexanes eluent) to give 15 mg {4-[6-methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-phenyl}-phenyl-methanol as an amorphous solid. mass spec. (AP+): m/z 473 (M+1).

reactant | 4-[6-Methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-benzaldehyde | CC1=CC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=O)C=C1 | C22H22N2O3S
reactant | PhMgBr | C1(=CC=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.63 mmol, 0.63 mL | C1CCOC1 | C4H8O
product | {4-[6-methyl-2-(2,4,6-trimethylphenylamino)-pyridine-3-sulfonyl]-phenyl}-phenyl-methanol | 15 mg | CC1=CC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)C(O)C1=CC=CC=C1 | C28H28N2O3S
